US05593982
To a solution of 0.17 g of 9-borabicyclo[3.3.1]nonane in 35 ml of dry tetrahydrofuran, 0.50 g of 3β-(prop-2-enoxy)-17β-(3-furyl)-5β-androstan-14β-ol in 10 ml of tetrahydrofuran were added under nitrogen atmosphere, at room temperature. The solution was stirred for 6 hrs then 0.75 ml of ethanol, 0.25 ml of sodium hydroxide 6N and 0.50 ml of hydrogen peroxide 30% were added. The mixture was stirred at 50° C. for an hr, quenched with a solution of 0.76 g of potassium carbonate in 20 ml of water and the organic solvent distilled under reduced pressure. The residue was extracted with methylene chloride, the organic solution was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 70/30 as eluant to give 0.40 g of 3β-(3-hydroxypropoxy)-17β-(3-furyl)-5β-androstan-14β-ol as a white amorphous solid.

reactant | 9-borabicyclo[3.3.1]nonane | 0.17 g | C12CCCC(CCC1)B2 | C8H15B
reactant | 3β-(prop-2-enoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.50 g | C(C=C)O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C26H38O3
reactant | sodium hydroxide | 6N, 0.25 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 0.50 ml | OO | H2O2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 0.75 ml | C(C)O | C2H6O
product | 3β-(3-hydroxypropoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.40 g | OCCCO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C26H40O4
